US08791235B2
b) Indanylglycine-Val-OAllyl
Fmoc-Indanylglycine-Val-OAllyl (0.758 g, 1.31 mmol) was solvated in CH2Cl2 (5 mL) and DMF (1.8 mL) followed by dropwise addition of piperidine (1.05 mL, 8.1 eq) over 30 seconds. After 45 min, the mixture was subjected to extraction CH2Cl2/brine (30/15 mL) and saturated NH4Cl (5 mL). The organic layer was dried over MgSO4, concentrates and purified by silica using a gradient of MeOH/CH2Cl2 (0 to 5%) to get 0.45 g of the desired compound.

reactant | Fmoc-Indanylglycine Val-OAllyl | 1.31 mmol, 0.758 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(CC(=O)O)C1CCC2=CC=CC=C12.N[C@@H](C(C)C)C(=O)OCC=C
reactant | DMF | 1.8 mL | CN(C)C=O | C3H7NO
reactant | piperidine | 1.05 mL, 8.1 eq | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Indanylglycine Val-OAllyl | 0.45 g | C1(CCC2=CC=CC=C12)NCC(=O)O.N[C@@H](C(C)C)C(=O)OCC=C | InChI=1S/C11H13NO2.C8H15NO2/c13-11(14)7-12-10-6-5-8-3-1-2-4-9(8)10;1-4-5-11-8(10)7(9)6(2)3/h1-4,10,12H,5-7H2,(H,13,14);4,6-7H,1,5,9H2,2-3H3/t;7-/m.0/s1
